US04370326
N,N-Dimethylformamide (88 mg) and phosphorus oxychloride (184 mg) were mixed to prepare Vilsmeier reagent in a conventional manner, and the resultant Vilsmeier reagent was suspended in dry tetrahydrofuran (10 ml). To the suspension was added 2-(2-formamidothiazol-4-yl)glyoxylic acid (0.2 g) under ice-cooling with stirring, and the solution was stirred at the same temperature for 30 minutes to prepare the activated acid solution. 4-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate (0.4 g) was dissolved in a solution of trimethylsilylacetamide (1.0 g) in ethyl acetate (100 ml). To the solution was added the activated acid solution obtained above all at once at -20° C., and the solution was stirred at -20° to -5° C. for 1.5 hours. After water and ethyl acetate (50 ml) were added to the resultant solution at -20° C., the insoluble substance was separated by filtration, washed with water and acetone in turn and then dried to give 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)glyoxyloylamino]-3-chloro-3-cephem-4-carboxylate (0.1 g).

reactant | phosphorus oxychloride | 184 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 2-(2-formamidothiazol-4-yl)glyoxylic acid | 0.2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | 4-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | 0.4 g | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | trimethylsilylacetamide | 1.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-Dimethylformamide | 88 mg | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamidothiazol-4-yl)glyoxyloylamino]-3-chloro-3-cephem-4-carboxylate | 0.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=O | C20H14ClN5O8S2
